US07834051B2
2-chloro-4-[(2S,3S)-2-ethyl-3-hydroxy-3-methyl-5-oxopyrrolidin-1-yl]-3-methylbenzonitrile
Using 2-chloro-4-iodo-3-methylbenzonitrile (565 mg), (4S,5S)-5-ethyl-4-hydroxy-4-methylpyrrolidin-2-one (350 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (180 mg), tris(dibenzylideneacetone)dipalladium(0) (93 mg) and cesium carbonate (929 mg), and in the same manner as in Example 62, the title compound was obtained as colorless crystals (yield: 132 mg, 22%).

reactant | 2-chloro-4-iodo-3-methylbenzonitrile | 565 mg | ClC1=C(C#N)C=CC(=C1C)I | C8H5ClIN
reactant | (4S,5S)-5-ethyl-4-hydroxy-4-methylpyrrolidin-2-one | 350 mg | C(C)[C@H]1[C@@](CC(N1)=O)(C)O | C7H13NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 180 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 929 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 93 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-[(2S,3S)-2-ethyl-3-hydroxy-3-methyl-5-oxopyrrolidin-1-yl]-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N1[C@H]([C@@](CC1=O)(C)O)CC | C15H17ClN2O2
